US08022062B2
7-Chloro-6-(6-methoxypyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 330, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-chloromethyl-6-methoxypyridine hydrochloride to give, after deprotection by a method similar to the General Procedure 14, the title compound as a white solid (120 mg). MS (APCI+) m/z: 335 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-chloromethyl-6-methoxypyridine hydrochloride | Cl.ClCC1=NC(=CC=C1)OC
product | 7-Chloro-6-(6-methoxypyridin-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | 120 mg | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=NC(=CC=C1)OC | InChI=1S/C17H19ClN2OS.ClH/c1-21-16-4-2-3-13(20-16)11-22-17-14-8-10-19-9-7-12(14)5-6-15(17)18;/h2-6,19H,7-11H2,1H3;1H
